US05849732
(3-Amino-4,6-dimethoxyphenoxy)methoxymethane and phenyl isocyanate were treated in the same manner as described in Example 1 to give 3-(3-phenylureido)-4,6-dimethoxyphenol (melting point: 162°-164° C.).

reactant | (3-Amino-4,6-dimethoxyphenoxy)methoxymethane | NC=1C=C(OCOC)C(=CC1OC)OC | C10H15NO4
reactant | phenyl isocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
product | 3-(3-phenylureido)-4,6-dimethoxyphenol | C1(=CC=CC=C1)NC(NC=1C=C(C(=CC1OC)OC)O)=O | C15H16N2O4
